US09290476B2
6-(Trifluoromethyl)nicotinoyl chloride
To a 1 L 3-neck flask equipped with an overhead stirrer, Claisen adaptor, nitrogen bubbler, 60 mL addition funnel, and thermocouple was added 6-(trifluoromethyl)nicotinic acid (45 g, 235.5 mmol), dichloromethane (540 mL) and DMF (0.910 mL, 11.77 mmol) via syringe. To this solution was added oxalyl chloride (24.51 mL, 282.56 mmol) and the reaction was allowed to stir at ambient temperature overnight. The reaction was then filtered and the clear filtrate was condensed in vacuo to afford the title compound as a brownish semisolid.

reactant | 6-(trifluoromethyl)nicotinic acid | 235.5 mmol, 45 g | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | DMF | 11.77 mmol, 0.910 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 282.56 mmol, 24.51 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 540 mL | ClCCl | CH2Cl2
product | 6-(Trifluoromethyl)nicotinoyl chloride | FC(C1=NC=C(C(=O)Cl)C=C1)(F)F | C7H3ClF3NO
